data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-c1nccs1_2-OC_3-C(C)C_4-C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1nccs1)(OC)=C(C(C)C)C(=O)(C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1nccs1)(OC)=C(C(C)C)C(O)(C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1nccs1)(OC)=C(C(C)C)C(=[O+][Ce-](Cl)(Cl)Cl)(C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1nccs1)(OC)=C(C(C)C)C(O[Ce-](Cl)(Cl)Cl)(C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccs1)(OC)=C(C(C)C)C(O)(C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-312_10-c2ccccc2_1-C(C)(C)C_2-OC_3-[N+](=O)[O-]_4-C(=O)C_5-CC_6-F_7-C(C)(C)C_8-OC(F)(F)F_9-F","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C(C)(C)C)c(OC)c([N+](=O)[O-])c(C(=O)C)c(CC)c1O","c1(F)c(C(C)(C)C)c(OC(F)(F)F)c(F)c(c2ccccc2)c1I"],"products_smiles": ["c1(C(C)(C)C)c(OC)c([N+](=O)[O-])c(C(=O)C)c(CC)c1Oc2c(F)c(C(C)(C)C)c(OC(F)(F)F)c(F)c2(c2ccccc2)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(C)(C)C)c(OC)c([N+](=O)[O-])c(C(=O)C)c(CC)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(F)c(C(C)(C)C)c(OC(F)(F)F)c(F)c(c2ccccc2)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(F)c(C(C)(C)C)c(OC(F)(F)F)c(F)c(c2ccccc2)c2[Cu](I)Oc1c(C(C)(C)C)c(OC)c([N+](=O)[O-])c(C(=O)C)c1(CC)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C(C)(C)C)c(OC)c([N+](=O)[O-])c(C(=O)C)c(CC)c1Oc2c(F)c(C(C)(C)C)c(OC(F)(F)F)c(F)c2(c2ccccc2)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
